US07846944B2
A solution of 5-bromo-1-(2,4-difluorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (1.05 g, 3.22 mmol) in DME (10 mL) and DMF (0.9 mL) at 0° C. was treated with NaH (116 mg, 4.8 mmol). After stirring for 20 min at RT, lithium bromide (1.67 g, 19.32 m mol) was added and the reaction mixture was allowed to stir for 1 h at RT before addition of 3-bromoprop-1-ene (0.28 ml, 3.22 mmol). The mixture was allowed to stir at 40° C. for 18 h. The mixture was quenched with brine and extracted with 2×30 mL EtOAc. The combined EtOAc layers were washed with brine, dried and concentrated. Purification on the ISCO (40 g column, 10-80% EtOAc in Hexanes) afforded 7-allyl-5-bromo-1-(2,4-difluorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one as a tan amorphous solid. MS (ESI, pos.ion) m/z: 365.9/367.9 (M+1).

reactant | 5-bromo-1-(2,4-difluorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 3.22 mmol, 1.05 g | BrC1=CC2=C(NC1=O)N(N=C2)C2=C(C=C(C=C2)F)F | C12H6BrF2N3O
reactant | NaH | 4.8 mmol, 116 mg | [H-].[Na+]
reactant | lithium bromide | 1.67 g | [Br-].[Li+]
reactant | 3-bromoprop-1-ene | 3.22 mmol, 0.28 ml | BrCC=C | C3H5Br
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | DMF | 0.9 mL | CN(C)C=O | C3H7NO
product | 7-allyl-5-bromo-1-(2,4-difluorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | C(C=C)N1C2=C(C=C(C1=O)Br)C=NN2C2=C(C=C(C=C2)F)F | C15H10BrF2N3O
